US07855285B2
2-Chloro-9-[2-deoxy-3,5-di-O-(p-toluoyl)-β-D-erythro-pentofuranosyl]-6-(2-propylimidazol-1-yl)purine (0.615 g, 1 mmol) was treated with a solution of BnI in CH3CN (0.3 M, 40 mL, 12 mmol) by method 3 to give 3-benzyl-1-{2-chloro-9-[2-deoxy-3,5-di-O-(p-toluoyl)-β-D-erythro-pentofuranosyl]purin-6-yl}-2-propylimidazolium iodide (0.83 g, crude): 1H NMR (500 MHz, CDCl3) δ 8.94 (s, 1H), 8.49 (s, 1H), 8.00 (d, J=8.5 Hz, 2H), 7.88 (d, J=8.0 Hz, 2H), 7.81 (s, 1H), 7.46-7.50 (m, 5H), 7.32 (d, J=8.0 Hz, 2H), 7.25 (d, J=8.0 Hz, 2H), 6.67 (t, J=7.3 Hz, 1H), 5.75-5.85 (m, 3H), 4.71-4.82 (m, 3H), 3.67-3.74 (m, 2H), 2.99-3.02 (m, 2H), 2.47 (s, 3H), 2.42 (s, 3H), 1.75-1.81 (m, 2H), 1.17 (t, J=7.5 Hz, 3H); HRMS m/z 705.2606 (M+[C39H38ClN6O5=705.2592]).

reactant | 2-Chloro-9-[2-deoxy-3,5-di-O-(p-toluoyl)-β-D-erythro-pentofuranosyl]-6-(2-propylimidazol-1-yl)purine | 1 mmol, 0.615 g | ClC1=NC(=C2N=CN(C2=N1)[C@H]1C[C@H](OC(=O)C2=CC=C(C=C2)C)[C@H](O1)COC(=O)C1=CC=C(C=C1)C)N1C(=NC=C1)CCC | C32H31ClN6O5
reactant | BnI | C(C1=CC=CC=C1)I | C7H7I
reactant | CH3CN | 12 mmol, 0.3 M, 40 mL | CC#N | C2H3N
product | 3-benzyl-1-{2-chloro-9-[2-deoxy-3,5-di-O-(p-toluoyl)-β-D-erythro-pentofuranosyl]purin-6-yl}-2-propylimidazolium iodide | 0.83 g | [I-].C(C1=CC=CC=C1)N1C(=[N+](C=C1)C1=C2N=CN(C2=NC(=N1)Cl)[C@H]1C[C@H](OC(=O)C2=CC=C(C=C2)C)[C@H](O1)COC(=O)C1=CC=C(C=C1)C)CCC | InChI=1S/C39H38ClN6O5.HI/c1-4-8-32-44(22-27-9-6-5-7-10-27)19-20-45(32)35-34-36(43-39(40)42-35)46(24-41-34)33-21-30(51-38(48)29-17-13-26(3)14-18-29)31(50-33)23-49-37(47)28-15-11-25(2)12-16-28;/h5-7,9-20,24,30-31,33H,4,8,21-23H2,1-3H3;1H/q+1;/p-1/t30-,31+,33+;/m0./s1
